Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6](=[C:7])[H:12])[H:9])[H:8]>>[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8],0.532672368946308
[C-:4]#[O+:5].[N:1](=[C:2](\[O:3][H:9])[C:6]#[N:7])\[H:8]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8],42.052908046653165
[C:1]([C@@:2]([C:3]([O:4][H:12])([H:11])[H:14])([C:5](=[O:6])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C@:3]([O:4][H:12])([H:11])[C@:5]1([O:6][H:14])[H:13])([H:7])([H:8])[H:9],74.3804082398789
[H:10][H:11].[O:1]([C+:2]([C@@:3]1([C:6](=[O:7])[H:14])[C-:4]([H:12])[N:5]1[H:13])[H:9])[H:8]>>[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8],4.244168101220708
[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]1[C:2]([H:7])=[C:3]([H:8])[O:4][C:5]1([O:6][H:9])[H:10],44.0241409580052
[C:1]([C:2](=[C:3]=[O:4])[H:10])([H:7])([H:8])[H:9].[N:5]#[N:6]>>[C:1]([c:2]1[c:3]([H:10])[o:4][n:5][n:6]1)([H:7])([H:8])[H:9],59.49277015257371
[C:1]1([H:9])([H:10])[C:2]([H:11])([H:12])[C:3]1([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13].[O:4]([H:8])[H:14]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],67.35955345874561
[C-:4]#[O+:5].[C-:6]#[O+:7].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],60.07982869342798
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8]>>[O-:1][C:2](=[C:3]([N+:5]1=[C:6]([H:12])[O:7][C:4]1([H:10])[H:11])[H:9])[H:8],54.3602566540374
[C:1]([C:2](/[C:4]([O:3][H:12])=[N:5]/[C:6]([H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],111.23298500414376
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6](=[O:7])[H:17])([H:8])([H:9])[H:10]>>[C:1]([O:2][O:7][C:6](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])[H:17])([H:8])([H:9])[H:10],58.136049569734105
[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:7])([H:8])[H:9].[H:10][H:11],86.3943178603266
[C:1]([C:2]([C:3](=[O:4])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:3]([C:2]([N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])=[O:4])([H:7])([H:8])[H:9],110.32494556731001
[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[C:6]([H:13])([H:14])[N:7]1[H:15]>>[N:3](=[C:4]([H:9])[H:10])[H:8].[O:1]=[C:2]1[C:5]([H:11])([H:12])[C:6]([H:13])([H:14])[N:7]1[H:15],108.088562999928
[C:1]([C:2]([C+:3]1[C:4]([H:11])([H:12])[C-:5]([H:13])[C:6]1([H:15])[H:16])([H:9])[H:10])([H:7])([H:8])[H:14]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[C:6]2([H:15])[H:16],16.900315027155592
[C:1]([O:2][C:3]([C:4](=[O:5])[O:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([O:5][C-:4]=[O+:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],84.2949182952447
[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3]([C:6]#[N:7])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10].[C:4]([O:5][H:15])[H:14],71.6345611993053
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:14])([H:8])([H:9])[H:10].[H:12][H:15],79.18929396248309
[O:1]=[C:2]([C:3]#[C:4][C:5]#[C:6][H:8])[H:7]>>[O:1]=[C:2]=[C:3]=[C:4]=[C:5]=[C:6]([H:7])[H:8],56.9981375117002
[C:1](=[C:2]([H:9])[H:10])([H:6])[H:8].[C:3](=[C:4]=[C:5]([H:7])[H:13])([H:11])[H:12]>>[C:1]([C:2]([C:3]([C:4]#[C:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],26.475453033214496
[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:12].[N:2](=[C:3](/[C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])\[H:11],88.3541445281345
[C:1](/[C:2](=[N:3]/[H:10])[O:4][C:5](=[O:6])[H:11])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1]([C:2]([N:3]([H:10])[H:11])=[O:4])([H:7])([H:8])[H:9],40.55361544998871
[C:1]([C:2](=[O:3])/[C:4]([O:5][H:10])=[N:6]\[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9],27.89611711406119
[C:1]([C:2]1([H:8])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:1]([H:5])([H:6])([H:7])[H:12].[C:2]1([H:8])=[C:4]([H:11])[C:3]1([H:9])[H:10],117.093252690997
[C:1]([C@@:2]1([C:5]#[C:6][H:12])[C:3]([H:10])([H:11])[O:4]1)([H:7])([H:8])[H:9]>>[C@@:1]12([H:7])[C@:2]3([C:3]([H:10])([H:11])[O:4]3)[C:5]1=[C:6]2[H:12].[H:8][H:9],114.77135321431801
